US05968944
2-{4-[4-(2-Ethoxy-naphthalen-1-ylmethyl)-3,5-diethyl-pyrazol-1-yl]-3,5-dimethylphenyl}-propan-2-ol
To a solution of n-butyl lithium (0.18 ml of a 2.5 M hexane solution, 0.45 mmol) chilled in a dry ice-acetone bath, a solution of 1-(4-bromo-2,6-dimethylphenyl)-4-(2-ethoxy-naphthalen-1-ylmethyl)-3,5-diethyl-1H-pyrazole (0.200 g, 0.41 mmol) in 1.0 ml of anhydrous tetrahydrofuran was added dropwise. After stirring for 10 minutes, anhydrous acetone (0.090 ml, 1.23 mmol) was added and the resulting mixture was stirred 10 minutes. The reaction was stirred at ambient temperature for 2 hours before quenching by addition of saturated aqueous ammonium chloride (0.5 ml). The mixture was extracted with ethyl acetate/brine (25 ml of each). The aqueous phase was then extracted twice with 25 ml portions of fresh ethyl acetate. The combined organic extracts were dried over anhydrous sodium sulfate and concentrated in vacuo to an oil (194 mg). Flash chromatography of the entire sample (silica gel, 40 micron mesh; elution with ethyl acetate/hexanes =3:7 in volume) afforded the title compound as a colorless viscous oil (110 mg).

reactant | n-butyl lithium | C(CCC)[Li]
reactant | hexane | 2.5 M | CCCCCC | C6H14
reactant | 1-(4-bromo-2,6-dimethylphenyl)-4-(2-ethoxy-naphthalen-1-ylmethyl)-3,5-diethyl-1H-pyrazole | 0.41 mmol, 0.200 g | BrC1=CC(=C(C(=C1)C)N1N=C(C(=C1CC)CC1=C(C=CC2=CC=CC=C12)OCC)CC)C | C28H31BrN2O
reactant | acetone | 1.23 mmol, 0.090 ml | CC(=O)C | C3H6O
reactant | tetrahydrofuran | 1.0 ml | O1CCCC1 | C4H8O
product | 2-{4-[4-(2-Ethoxy-naphthalen-1-ylmethyl)-3,5-diethyl-pyrazol-1-yl]-3,5-dimethylphenyl}-propan-2-ol | 110 mg | C(C)OC1=C(C2=CC=CC=C2C=C1)CC=1C(=NN(C1CC)C1=C(C=C(C=C1C)C(C)(C)O)C)CC | C31H38N2O2
